* D:\___Studia___\_PracaInzynierska_\BScThesis\Project\Desktop\save\save.asc
V1 N002 0 12
res0id0 N003 N002 100R
D§led0id1 N003 N001 QTLP690C
.model D D
.lib C:\Users\barte\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 10
.backanno
.end
